US04001419
A mixture of 2,5-dichlorobenzoic acid (9.5 g.), 2-methoxyphenol (7.4 g.) and copper bronze (1.0 g.) is added to a solution of sodium methoxide in methanol prepared from sodium (2.53 g.) and methanol (50 ml.). The excess methanol is evaporated and 1,2-dichlorobenzene (50 ml.) is added to the residue. The mixture is stirred and heated under reflux for 2.5 hours. The mixture is cooled, acidified with 3N hydrochloric acid, filtered to remove copper bronze and extracted with chloroform. The organic layer is separated and extracted with saturated sodium hydrogen carbonate solution. The sodium hydrogen carbonate extract is acidified. The precipitate is filtered off, dissolved in toluene, and the toluene solution treated with carbon, filtered and the solvent evaporated. The solid residue is recrystallised from toluene-petroleum ether (b.p. 60°-80° C.) to give 5-chloro-2-(2'-methoxyphenoxy)benzoic acid, m.p. 115°-118° C.

reactant | 2,5-dichlorobenzoic acid | 9.5 g | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | 2-methoxyphenol | 7.4 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 2.53 g | [Na] | Na
solvent | methanol | CO | CH4O
catalyst | copper bronze | 1.0 g | [Cu] | Cu
solvent | methanol | 50 ml | CO | CH4O
product | 5-chloro-2-(2'-methoxyphenoxy)benzoic acid | ClC=1C=CC(=C(C(=O)O)C1)OC1=C(C=CC=C1)OC | C14H11ClO4
